US08242175B2
A mixture of (E)-3-{4-[(E)-3-(3-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-acrylic acid potassium salt (1.25 g, 3.6 mmol), EDC (828 mg, 4.32 mmol), HOBT (584 mg, 4.32 mmol), TEA (1.0 ml, 7.2 mmol), NH2OTHP (421 mg, 3.60 mmol) in THF (20 ml) and DMF (20 ml) was stirred at room temperature for 12 h and then partitioned between water and AcOEt. The organic phase was washed with water, dried over Na2SO4 and evaporated in vacuo. The crude reaction mixture was purified by column chromatography (eluent: petroleum ether/AcOEt 2:8) to give 1.2 g of (E)-3-{4-[(E)-3-(3-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide as a yellow powder.

reactant | (E)-3-{4-[(E)-3-(3-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-acrylic acid potassium salt | 3.6 mmol, 1.25 g | [K+].OCC=1C=C(C=CC1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)[O-])=O
reactant | EDC | 4.32 mmol, 828 mg
reactant | HOBT | 4.32 mmol, 584 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 3.60 mmol, 421 mg | NOC1OCCCC1 | C5H11NO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (E)-3-{4-[(E)-3-(3-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 1.2 g | OCC=1C=C(C=CC1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NOC1OCCCC1)=O | C24H25NO5
